US07183306B2
To a solution of 5-[4-(2-{[tert-butyl(dimethyl)-silyl]oxy}ethoxy)phenyl]-1-(4-methoxyphenyl)-4-methyl-3-(trifluoromethyl)-1H-pyrazole (5.2 g) in EtOH (200 ml) was added conc.HCl (20 ml) at room temperature. After stirring for 2 hrs, the reaction mixture was partitioned between EtOAc and water. Organic layer was separated and washed with water, dried over MgSO4, filtered and evaporated. The residue was chromatographed on silica gel (Hex/EtOAc=2:1–1:1) to give 2.05 g (51%) of 2-{4-[1-(4-methoxyphenyl)-4-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenoxy}ethanol as a crystal.

reactant | 5-[4-(2-{[tert-butyl(dimethyl)-silyl]oxy}ethoxy)phenyl]-1-(4-methoxyphenyl)-4-methyl-3-(trifluoromethyl)-1H-pyrazole | 5.2 g | C(C)(C)(C)[Si](OCCOC1=CC=C(C=C1)C1=C(C(=NN1C1=CC=C(C=C1)OC)C(F)(F)F)C)(C)C | C26H33F3N2O3Si
reactant | HCl | 20 ml | Cl | ClH
solvent | EtOH | 200 ml | CCO | C2H6O
product | 2-{4-[1-(4-methoxyphenyl)-4-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenoxy}ethanol | 2.05 g, 51% | COC1=CC=C(C=C1)N1N=C(C(=C1C1=CC=C(OCCO)C=C1)C)C(F)(F)F | C20H19F3N2O3
